US04113871
β-{4-[2-(5-Chloro-2-methoxybenzamido)-ethyl]-phenyl }-propionic acid
7.19 g. 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-cinnamic acid are hydrogenated in methanol, with the use of 1 g. palladium/barium sulphate, at ambient temperature. After taking up 1 mol hydrogen/mol of starting material, the hydrogenation is discontinued and the solution is filtered, evaporated and the residue recrystallised from isopropanol/water. There are obtained 6.14 g. (about 85% of theory) β-{4-[2-(5-chloro-2-methoxybanzamido)-ethyl]-phenyl}-propionic acid; m.p. 118°- 120° C.

reactant | 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-cinnamic acid | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=CC(=O)O)C=C2)C1)OC | C19H18ClNO4
reactant | hydrogen | 1 mol | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium barium sulphate | [Pd].S(=O)(=O)([O-])[O-].[Ba+2]
product | β-{4-[2-(5-Chloro-2-methoxybenzamido)-ethyl]-phenyl }-propionic acid | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)CCC(=O)O)C1)OC | C19H20ClNO4
